US07820707B2
b) 3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde
(3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (600 mg, 3.61 mmol) was dissolved in MeCN (5 mL). MnO2 (785 mg, 9.03 mmol) was added. The reaction mixture was heated at 120° C. for 5 min in the microwave. The reaction mixture was filtered through decalite, washed with MeCN (30 mL), then concentrated in vacuo and purified by flash column chromatography (silica gel; eluent EtOAc:heptane, 1:1) to give the desired product (200 mg, 1.22 mmol, 34%).

reactant | (3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 3.61 mmol, 600 mg | FC(C1=NNC=C1CO)(F)F | C5H5F3N2O
solvent | MeCN | 5 mL | CC#N | C2H3N
catalyst | MnO2 | 9.03 mmol, 785 mg | O=[Mn]=O
product | 3-(trifluoromethyl)-1H-pyrazole-4-carbaldehyde | 1.22 mmol, 200 mg, 34% | FC(C1=NNC=C1C=O)(F)F | C5H3F3N2O
